### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Projective): implement group operations on point representatives for projective coordinates

### PR DESCRIPTION
**Pull request by Multramate**
Define the analogous secant-and-tangent negation `neg` and addition `add` on `PointRep` over `F`, and lift them to `PointClass`. Define `Point` as a `PointClass` that is nonsingular. Prove in `neg_equiv` and `add_equiv` that these operations preserve the equivalence. Prove in `nonsingular_neg` and `nonsingular_add` that these operations preserve nonsingularity by reducing it to the affine case, and lift these proofs to `PointClass`.

This is the third in a series of four PRs leading to #8485 

---

- [x] depends on: #9416
- [x] depends on: #9417

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean [hunk 1]
```diff
@@ -1163,4 +1176,271 @@ lemma addXYZ_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equati
...
+  ![P x, W'.negY P, P z]
+
+lemma neg_X (P : Fin 3 → R) : W'.neg P x = P x :=
+  rfl
+
+lemma neg_Y (P : Fin 3 → R) : W'.neg P y = W'.negY P :=
+  rfl
+
+lemma neg_Z (P : Fin 3 → R) : W'.neg P z = P z :=
+  rfl
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean:1195]: Should these be `@[simp]` lemmas?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean [hunk 2]
```diff
@@ -1163,4 +1176,271 @@ lemma addXYZ_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equati
...
+  · simp only [neg_of_Z_ne_zero hPz, nonsingular_smul _ <| Ne.isUnit hPz,
+      nonsingular_neg_of_Z_ne_zero hP hPz]
+
+lemma addZ_neg (P : Fin 3 → R) : W'.addZ P (W'.neg P) = 0 := by
+  rw [addZ, neg_X, neg_Y, neg_Z, negY]
+  ring1
+
+lemma addX_neg (P : Fin 3 → R) : W'.addX P (W'.neg P) = 0 := by
+  rw [addX, neg_X, neg_Y, neg_Z, negY]
+  ring1
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean:1234]: And these?

**Review by jcommelin — COMMENTED** [review]
Should some of your lemmas be tagged with `@[simp]`? I gave a few suggestions, but there might be other good candidates. I'm not sure what you think should be part of the API, and which simp normal form you are after.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean:1195]: Yes, I do think these can be `@[simp]` lemmas, but I deliberately avoided adding the tags at this stage. There will be at least two more PRs that follow this one, and there won't be any `@[simp]` tags for those either. At this point I have not decided what should be the simp normal form, and I was thinking to add them all at the end once the entire API is clear, so as to avoid simpNF linter errors. Let me know if I'm just overthinking, or if this is a bad idea.

Notice that the Jacobian file also has almost no simp lemmas for the exact same reason.

**Comment by jcommelin** [comment]
Ok, that's fine with me. It's easy to add the `@[simp]` tags at a later stage, after all.

bors merge

**Comment by bryangingechen** [comment]
This fell off the queue when bors crashed yesterday
bors r+

Just in case:
bors d+
